US07091232B2
A solution of TMS-diazomethane (4.61 mL, 9.22 mmol) in THF (60 mL) was reacted with n-BuLi (5.0 mL, 7.99 mmol) at −78° C. for 0.5 h. 5-(2-triisopropylsilanyloxy-ethyl)-cyclohex-1-enecarbaldehyde (Intermediate R13) was added via cannula. The mixture was reacted at −78° C. for 1 h and at 0° C. for 1 h. After work-up and chromatographic purification, [2-(3-ethynyl-cyclohex-3-enyl)-ethoxy]-triisopropyl-silane (Intermediate R14) was isolated, 1.44 g (77%). To Intermediate R14 in THF (70 mL) at 0° C. was injected tetrabutyl ammonium fluoride (TBAF). After 2 h at rt the mixture was subjected to an aqueous work-up. The material was purified by chromatography to give the alcohol, 2-(3-ethynyl-cyclohex-3-enyl)-ethanol 0.68 g, (98%). The alcohol was oxidized by a Swern reaction to the aldehyde stage and aldehyde was subjected to the applicable step of Method A to yield 4-(3-ethynyl-cyclohex-3-enylmethyl)-1H-imidazole (Intermediate R15).

reactant | TMS-diazomethane | 9.22 mmol, 4.61 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | n-BuLi | 7.99 mmol, 5.0 mL | [Li]CCCC
reactant | 5-(2-triisopropylsilanyloxy-ethyl)-cyclohex-1-enecarbaldehyde | C(C)(C)[Si](OCCC1CCC=C(C1)C=O)(C(C)C)C(C)C | C18H34O2Si
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | [2-(3-ethynyl-cyclohex-3-enyl)-ethoxy]-triisopropyl-silane | C(#C)C=1CC(CCC1)CCO[Si](C(C)C)(C(C)C)C(C)C | C19H34OSi
